US09328096B2
5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide
To a solution of 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (Preparation 53, 400 mg, 2.17 mmol) in 2-methyltetrahydrofuran (12 mL) was added pyridine (524 uL, 6.51 mmol) and 5-bromo-2-chlorobenzoic acid (768 mg, 3.26 mmol). The mixture was heated to 85° C. and propylphosphonic anhydride (50% w/w in EtOAc, 3.10 mL, 4.34 mmol), was added dropwise. The reaction was heated at 85° C. for 16 hours, then stirred for 48 hours at room temperature. The reaction was quenched by the addition of 10% aqueous potassium carbonate solution (24 mL, 17.4 mmol) with stirring at room temperature for 1 hour. The reaction was diluted to 150 mL with EtOAc and washed with 10% aqueous solution of potassium carbonate (100 mL) followed by 2M aqueous HCl (100 mL). The organic layer was dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-1% methanol in dichloromethane to afford the title compound (640 mg, 74%).

reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | 2.17 mmol, 400 mg | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
reactant | pyridine | 6.51 mmol, 524 uL | N1=CC=CC=C1 | C5H5N
reactant | 5-bromo-2-chlorobenzoic acid | 3.26 mmol, 768 mg | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | propylphosphonic anhydride | 4.34 mmol, 3.10 mL | CCCP(=O)=O | C3H7O2P
reactant | potassium carbonate | 17.4 mmol, 24 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 2-methyltetrahydrofuran | 12 mL | CC1OCCC1 | C5H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-bromo-2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)benzamide | 640 mg, 74% | BrC=1C=CC(=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C1)Cl | C17H10BrClN4O
